Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Presyncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH borderline HTN, borderline HLD, who presents with 
lightheadedness and a pre-syncopal episode. The patient endorses 
decreased oral intake during the day of admission, consumption 
of a single bagel for breakfast, then running through his many 
daily tasks which prevented him from eating or drinking for the 
rest of the day. He denies palpitations, chest pain, nausea, 
vomiting, pain preceding the episode. He denies any dyspnea, 
palpitations, tongue biting, loss of bowel or bladder 
continence, rhythmic movements observed by others. He has never 
had symptoms like this before, but has over the past few months 
had a few episodes of feeling off balance when walking, no 
falls, very brief lasting seconds, no vertigo.

ROS (+)
Constipation. 

ROS(-)
Cough, fever, chills, diarrhea, headache, dyspnea on exertion, 
melena, hematocheezia.

Upon arrival to the floor, Dr. ___ orthostatic 
vital signs manually, noting orthostasis by BP. He received 1L 
NS overnight. 
 
Past Medical History:
- borderline HTN
- borderline HLD
- motor neuropathy in feet
 
Social History:
___
Family History:
No family history of sudden cardiac death or unexplained, sudden 
death.

 
Physical Exam:
ADMISSION EXAM:
--------------
Vitals- 98.8 70 109/59 18 99% ra
General- alert, no apparent distress, walking around room
HEENT- MMM, PERRLA, no scleral icterus
Neck- JVP not elevated, no carotid bruits, no LAD
Lungs- CTAB no rales wheezes rhonchi
CV- RRR no MRG
Abdomen- soft, non tender, + BS, no organomegaly
GU- no foley
Ext- WWP, 2+ DP, atrophy of muscles of feet
Neuro- CN II-XII intact, normal sensation in face, hands and 
legs, normal strength b/l upper and lower extremities aside from 
feet, normal gait, negative Romberg, normal finger to nose

DISCHARGE PHYSICAL:
--------------------
Vitals- 98.4 128/76 80 100/RA  (By medical assistant)
Orthostatic vital signs at 0830, performed manually.
Supine HR76 138/72
Sitting HR72 128/72
Standing HR72 140/72
General- Alert, oriented, empathetic, engaging, well appearing. 
HEENT- Sclera anicteric, MMM, oropharynx clear, multiple caries.
Neck-   JVP <8cm, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi.   
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. No adventititial sounds.
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Well healed 
R infracostal incision.   
Ext- warm, well perfused, 2+symmetric radial pulses, no 
clubbing, cyanosis or edema 
Neuro: 
..Mental status: Awake and alert and oriented to person, place, 
and time.
..Cranial Nerves: 
....[CNII/III] PERRL 5 mm--> 3 mm, bilateral, symmetric.
....[CNIII/IV/VI] EOMI. Endorses diplopia at the extreme left 
visual field. 
....[CNV] Symmetric sensation through V1/V2/V3.
....[CNVII] Symmetric smile, no facial droop 
....[CNVIII] Symmetric to finger click bilaterally. 
....[CNIX/X] Uvula rises in midline.
....[CNXI] Symmetric shoulder raise.
....[CNXII] Tongue extends midline.
..Motor: Normal bulk, normal tone.
..Gait: Ambulating independently in the room with narrow based 
gait. 

 
Pertinent Results:
ADMISSION LABS:
-------------
___ 08:45PM BLOOD WBC-7.3 RBC-4.60 Hgb-13.7* Hct-42.6 
MCV-93 MCH-29.8 MCHC-32.2 RDW-12.7 Plt ___
___ 08:45PM BLOOD Neuts-75.5* ___ Monos-4.3 Eos-1.6 
Baso-0.5
___ 08:45PM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD Calcium-9.4 Phos-2.4* Mg-2.3

DISCHARGE LABS:
------------
___ 06:00AM BLOOD WBC-6.9 RBC-4.24* Hgb-12.7* Hct-39.6* 
MCV-93 MCH-29.9 MCHC-32.1 RDW-12.9 Plt ___
___ 06:00AM BLOOD Glucose-93 UreaN-24* Creat-0.9 Na-143 
K-4.0 Cl-111* HCO3-27 AnGap-9
___ 08:45PM BLOOD Calcium-9.4 Phos-2.4* Mg-2.___ otherwise healthy male presented with pre-syncope due to 
orthostasis in the setting of decreased PO intake and alcohol 
consumption on the the day of admission. 

ACTIVE ISSUES:
-------------

# Presyncope: RESOLVED. Due to orthostasis, evidenced by 
orthostatic vital signs (by BP, to SBP 110) upon arrival to the 
floor, history of decreased oral intake throughout the day 
preceding the episode, transient vasodilatory effect of alcohol, 
and rapid resolution with IVF in the setting of relative 
hypotension upon presentation. Alternate etiologies include 1) 
cardiac arrhythmia, which is less likely given normal ECG, 
telemetry without alarm, absence of palpations, and negative 
family history of unexplained death; 2) mechanical cardiac 
etiologies, which is less likely in the absence of murmur and 
normal cardiac catheterization ___ years prior; 3) seizure, which 
is less likely given the absence of post-ictal state.
- Overnight telemetry revealed HR 50-75, normal strips without 
VT, PVC, or arrhythmia alarms.

#. HTN
- Restarted home PO lisinopril 10qd once orthostatics were 
negative. 

CHRONIC ISSUES:
-------------

#. Sleep apnea
- continue CPAP

#. Muscle cramps
- continue home magnesium oxide

TRANSITIONAL ISSUES:
--------------

#AGE APPROPRIATE CANCER SCREENING

#CAD RISK CALCULATION

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Vitamin D 5000 UNIT PO DAILY 
3. ZyrTEC (cetirizine) 10 mg oral daily 
4. Magnesium Oxide 400 mg PO DAILY 
5. glucosamine-chondroitin unknown unknown oral daily 
6. vitamin A unkown unknown oral daily 
7. Aspirin 81 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1. Magnesium Oxide 400 mg PO DAILY 
2. Aspirin 81 mg PO 3X/WEEK (___) 
3. glucosamine-chondroitin 0 unknown ORAL DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Vitamin A 0 unknown ORAL DAILY 
6. Vitamin D 5000 UNIT PO DAILY 
7. ZyrTEC (cetirizine) 10 mg oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRESYNCOPE DUE TO ORTHOSTATIC HYPOTENSION IN THE SETTING OF 
HYPOVOLEMIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a privilege caring for you at ___. You were admitted to 
elucidate the ecology of a pre syncopal episode. Your 
orthostatic vital signs were prominently positive by heart rate 
and blood pressure. You received IV fluids overnight, and your 
repeat orthostatic vital signs in the morning were normal with 
stable heart rate and blood pressure much closer to your 
baseline prehypertensive blood pressures. 

Please ensure that you continue to pause during your day to take 
in adequate oral hydration. If you have any new, concerning 
symptoms please do not hesitate to set up further followup as an 
outpatient. 
 
Followup Instructions:
___